US04655819
10% Palladium on charcoal (1.5 g) was added to a solution of ethyl 2-(2-fluoro-4-benzyloxyphenoxy)propionate (13 g) in ethanol (250 ml) and the stirred suspension was placed under hydrogen at atmospheric pressure for 2 hours. The catalyst was removed by filtration and the filtrate evaporated under reduced pressure to give the product, ethyl 2-(2-fluoro-4-hydroxyphenoxy)propionate, as a colourless oil (8.9 g, 95%). Proton magnetic resonance spectrum (CDCl3, δ in ppm): 1.3, t, 3H (CH2CH3); 1.6, d, 3H (--CHCH3); 4.25, q, 2H (OCH2CH3); 4.7, q, 1H (--CHCH3); 6.4-7.1, m, 4H (OH and phenoxy ring).

reactant | ethyl 2-(2-fluoro-4-benzyloxyphenoxy)propionate | 13 g | FC1=C(OC(C(=O)OCC)C)C=CC(=C1)OCC1=CC=CC=C1 | C18H19FO4
catalyst | Palladium on charcoal | 1.5 g | [Pd] | Pd
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | ethyl 2-(2-fluoro-4-hydroxyphenoxy)propionate | FC1=C(OC(C(=O)OCC)C)C=CC(=C1)O | C11H13FO4
